US04999359
4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylic acid dihydrochloride
25.00 g (0.135 moles) of histamine dihydrochloride were dissolved in 125 ml of water; 26.92 g (0.40 moles) of 85% potassium hydroxide were then added to the cooled solution. A solution of 12.51 g (0.136 moles) of monohydrate glyoxylic acid and 9.00 g (0.136 moles) of 85% potassium hydroxyde in 125 ml of water was dropped into the first one and the reaction mixture heated at 90° C., 6 hours, cooled, treated with conc. HCl and concentrated in vacuo to dryness.

reactant | histamine dihydrochloride | 0.135 moles, 25.00 g | Cl.Cl.NCCC1=CNC=N1
reactant | potassium hydroxide | 0.40 moles, 26.92 g | [OH-].[K+]
reactant | monohydrate glyoxylic acid | 0.136 moles, 12.51 g | C(C=O)(=O)O.O
reactant | potassium | 0.136 moles, 9.00 g | [K] | K
reactant | HCl | Cl | ClH
solvent | water | 125 ml | O | H2O
solvent | water | 125 ml | O | H2O
product | 4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylic acid dihydrochloride | Cl.Cl.N1C=NC=2C(NCCC21)C(=O)O | InChI=1S/C7H9N3O2.2ClH/c11-7(12)6-5-4(1-2-8-6)9-3-10-5;;/h3,6,8H,1-2H2,(H,9,10)(H,11,12);2*1H
